US07410966B2
4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-2-chlorophenol
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 3-chloro-4-hydroxybenzaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 3-chloro-4-hydroxybenzaldehyde | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
product | 4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-2-chlorophenol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC(=C(C=C2)O)Cl | C12H7BrClN3O
